US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-chlorophenyl}-3-furansulfonamide
Following a procedure analogous to the procedure described in Example 52, Step B using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide (114 mg, 0.212 mmol) and ammonium hydroxide (4 mL) and 1,4-Dioxane (1 mL), the title compound was obtained as an off-white solid (82 mg, 70% yield). MS (ESI): 519 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | 0.212 mmol, 114 mg | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)N1CCOCC1)NS(=O)(=O)C1=COC=C1 | C21H17Cl2N5O4S2
reactant | ammonium hydroxide | 4 mL | [OH-].[NH4+]
solvent | 1,4-Dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-chlorophenyl}-3-furansulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=COC=C1)Cl | C21H19ClN6O4S2
